US07157488B2
(3-Phenoxybenzyl)-(2-(5-phenoxy-1H-indol-3-yl)-ethyl)-carbamic acid tert butyl ester
Combine (3-phenoxy-benzyl)-(2-(5-phenoxy-1H-indol-3-yl)-ethyl)-amine (0.96 g, 2.2 mmol) and NaOH (87.7 mg, 2.2 mmol) and dissolve in THF (10 mL), stir at room temperature for 15 min. Add di-tert-butyl dicarbonate (0.58 g, 2.64 mmol) in THF (10 mL) and stir. After 2 h, dilute the reaction with water, extract with EtOAc (3×15 mL), dry over Na2SO4. Concentrate the organic solvent on vacuum to give the title compound as an oil: 1H NMR (300 MHz, CDCl3) 1.36 (s, 9H), 2.85–2.91 (m, 2H), 3.89–3.65 (m, 2H), 4.26 (s, 1H), 4.39 (s, 1H) 6.83–7.13 (m, 10H), 7.21–7.33 (m, 7H), 8.00 (s, 1H); MS (ELECTROSPRAY) m/e 534.9 (M+1).

reactant | (3-phenoxy-benzyl)-(2-(5-phenoxy-1H-indol-3-yl)-ethyl)-amine | 2.2 mmol, 0.96 g | O(C1=CC=CC=C1)C=1C=C(CNCCC2=CNC3=CC=C(C=C23)OC2=CC=CC=C2)C=CC1 | C29H26N2O2
reactant | NaOH | 2.2 mmol, 87.7 mg | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.64 mmol, 0.58 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-Phenoxybenzyl)-(2-(5-phenoxy-1H-indol-3-yl)-ethyl)-carbamic acid tert butyl ester | C(C)(C)(C)OC(N(CCC1=CNC2=CC=C(C=C12)OC1=CC=CC=C1)CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C34H34N2O4
